US08314087B2
An NMR tube was charged with 4-(2-(4-benzyl-2-fluoropyridin-3-yl)ethoxy)-7-methoxyquinoline (0.0061 g, 0.016 mmol), 0.5 mL THF and 0.2 mL 35% HCl. The tube was heated to 70° C. for 40 h, and cooled. The solvent was removed under a stream of nitrogen, and the residue was diluted to 0.6 mL with MeOH, and treated with Si-carbonate (0.022 g, 0.016 mmol). The solution was filtered and concentrated in vacuo. A sample was scouted for prep purification using a 2.1×50 mm Xterra MS C18 column with a 3.5 μm particle size (PN 186000400); A=11 mM NH4HCO3 in water, pH adjusted to 8.5 with concentrated NH4OH; B=Acetonitrile; gradient: initial@1 mL/min, 10% B; 0→5 min@1 mL/min, linear gradient to 100% B; 5→6.9 min@1 mL/min, isocratic at 100% B; 6.9→6.95 min@1 mL/min, linear gradient to 110% B, 8 min end. A major peak was observed at 3.07. The sample was purified using a 19×150 mm Waters Xterra Prep C18 OBD column (100 Å pore diameter, 5 μm particle size, spherical shape, PN 186002381; Gradient: 0→5 min@20 mL/min, 25% B; 5.0→35 min@20 mL/min, linear gradient to 55% B; 35→45@20 mL/min, isocratic at 55% B, 45→55 min@20 mL/min, step to 100% B; 55→60 min@20 mL/min, step to 25% B; 60 min end). A=11 mM NH4HCO3 in water, pH adjusted to 8.5 with concentrated NH4OH; B=Acetonitrile. A band that eluted from 20.9-21.9 minutes was isolated. The solvent was removed in vacuo to afford 4-benzyl-3-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1 H)-one. 1H NMR (400 MHz, CDCl3) δ ppm 3.28 (t, J=6.75 Hz, 2 H) 3.93 (s, 3 H) 4.07 (s, 2 H) 4.36 (t, J=6.65 Hz, 2 H) 6.09 (d, J=6.75 Hz, 1 H) 6.66 (d, J=5.38 Hz, 1 H) 7.08 (dd, J=9.15, 2.49 Hz, 1 H) 7.13-7.17 (m, 2 H) 7.19-7.25 (m, 2 H) 7.26-7.32 (m, 2 H) 7.34 (d, J=2.54 Hz, 1 H) 8.03 (d, J=9.19 Hz, 1 H) 8.62 (d, J=5.18 Hz, 1 H) 11.96 (br. s., 1H). 13C NMR (101 MHz, CDCl3) δ ppm 26.72 (s, 1 C) 38.97 (s, 1 C) 55.43 (s, 1 C) 66.50 (s, 1 C) 99.65 (s, 1 C) 107.20 (s, 1 C) 109.62 (s, 1 C) 116.02 (s, 1 C) 118.12 (s, 1 C) 123.11 (s, 1 C) 126.28 (s, 1 C) 126.79 (s, 1 C) 128.73 (s, 2 C) 128.81 (s, 2 C) 131.53 (s, 1 C) 138.24 (s, 1 C) 151.17 (s, 1 C) 151.82 (s, 1 C) 152.21 (s, 1 C) 160.85 (s, 1 C) 161.60 (s, 1 C) 164.55 (s, 1 C). MS (ESI pos. ion) m/z (MH+): 387.2, calcd for C24H22N2O3+H+=387.2.

reactant | 4-(2-(4-benzyl-2-fluoropyridin-3-yl)ethoxy)-7-methoxyquinoline | 0.016 mmol, 0.0061 g | C(C1=CC=CC=C1)C1=C(C(=NC=C1)F)CCOC1=CC=NC2=CC(=CC=C12)OC | C24H21FN2O2
reactant | HCl | 0.2 mL | Cl | ClH
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 4-benzyl-3-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1 H)-one | C(C1=CC=CC=C1)C1=C(C(NC=C1)=O)CCOC1=CC=NC2=CC(=CC=C12)OC | C24H22N2O3
